US06197783B1
A vigorously stirred solution of 41 g of 8-pivaloylamino-2,3-dimethylimidazo[1,2-a]pyridine is treated dropwise at −78° C. under argon protective gas with 320 ml of a commercially available, 1.5 molar solution of t-butyllithium in n-pentane such that the temperature does not exceed −70° C. After stirring at −78° C. for a further 15 min, a solution of 61 g of cinnamaldehyde in 50 ml of dry diethyl ether is added dropwise (internal temperature <−68° C.). The mixture is then allowed to warm to room temperature, and is poured cautiously onto ice water and extracted three times with a total of 500 ml of ethyl acetate, the reddish-colored, organic phase is washed with distilled water and dried over sodium sulfate, and the solvent is stripped off in vacuo. The residual, yellowish suspension is treated with diethyl ether. The crystals obtained are filtered off with suction. 30 g of 2,3-dimethyl-7-(3-phenyl-1-hydroxy-2-propenyl)-8-pivaloylaminoimidazo[1,2-a]pyridine of melting point 194-5° C. are obtained.

reactant | 8-pivaloylamino-2,3-dimethylimidazo[1,2-a]pyridine | 41 g | C(C(C)(C)C)(=O)NC=1C=2N(C=CC1)C(=C(N2)C)C | C14H19N3O
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | cinnamaldehyde | 61 g | C(C=CC1=CC=CC=C1)=O | C9H8O
solvent | n-pentane | CCCCC | C5H12
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2,3-dimethyl-7-(3-phenyl-1-hydroxy-2-propenyl)-8-pivaloylaminoimidazo[1,2-a]pyridine | 30 g | CC=1N=C2N(C=CC(=C2NC(C(C)(C)C)=O)C(C=CC2=CC=CC=C2)O)C1C | C23H27N3O2
